US08957069B2
tert-butyl 4-(2,2,4,6,7-pentamethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)-1,4-diazepane-1-carboxylate
tert-butyl 1,4-diazepane-1-carboxylate (2.50 g, 12.5 mmol), palladium acetate (70.0 mg, 0.312 mmol), BINAP (579 mg, 0.901 mmol) and sodium tert-butoxide (1.79 g, 18.6 mmol) were added to a solution of toluene (20 mL) containing 5-bromo-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one (1.77 g, 6.25 mmol) synthesized in Reference Example 36, and the mixture was heated to reflux under argon atmosphere for 29 hours. After cooled to room temperature, the mixture was diluted with water and extracted using ethyl acetate. It was dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate: 100:0 to 95:5) to give 340 mg of the title compound (yield: 14%).

reactant | tert-butyl 1,4-diazepane-1-carboxylate | 12.5 mmol, 2.50 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | BINAP | 0.901 mmol, 579 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 18.6 mmol, 1.79 g | CC(C)([O-])C.[Na+]
reactant | 5-bromo-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 6.25 mmol, 1.77 g | BrC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C13H15BrO2
solvent | water | O | H2O
catalyst | palladium acetate | 0.312 mmol, 70.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(2,2,4,6,7-pentamethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)-1,4-diazepane-1-carboxylate | 340 mg, yield: 14% | CC1(OC2=C(C1=O)C(=C(C(=C2C)C)N2CCN(CCC2)C(=O)OC(C)(C)C)C)C | C23H34N2O4
